US08426402B2
S-3-(Methylamino)propyl ethanethioate hydrogen chloride salt
S-3-(tert-Butoxycarbonyl(methyl)amino)propyl ethanethioate (206 mg, 0.834 mmol) in 4 ml of EtAc was added 1.0 ml of HCl (conc.) at RT. The mixture was stirred at RT for 1 h, diluted with ethanol/toluene (6 ml, 1:1), evaporated and co-evaporated with ethanol/toluene (3×10 ml), crystallized with ethanol/EtAc/Hexane, filtered, and dried over a vaccum to afford 135 mg (88%) of the title compound. 1H NMR (CDCl3) 9.70 (br, 1H), 8.56 (br, 1H), 3.42 (m, 2H), 2.52 (m, 2H), 2.35 (s, 3H), 2.05 (s, 3H), 1.88 (m, 2H); 13C NMR 174.64, 40.57, 31.57, 27.69, 20.94, 15.62; MS m/z+ 170.0 (M+Na), 148.10 (M+H).

reactant | S-3-(tert-Butoxycarbonyl(methyl)amino)propyl ethanethioate | 0.834 mmol, 206 mg | C(C)(SCCCN(C)C(=O)OC(C)(C)C)=O | C11H21NO3S
reactant | HCl | 1.0 ml | Cl | ClH
solvent | ethanol toluene | 6 ml | C(C)O.C1(=CC=CC=C1)C
product | S-3-(Methylamino)propyl ethanethioate hydrogen chloride salt | 135 mg, 88% | Cl.C(C)(SCCCNC)=O | InChI=1S/C6H13NOS.ClH/c1-6(8)9-5-3-4-7-2;/h7H,3-5H2,1-2H3;1H
